US04334089
5.5 g of oxirane in 20 ml of diethyl ether are added dropwise, at about 0° C., to a Grignard solution prepared from 28.5 g of 2-(3-trifluoromethylphenyl)-ethyl bromide and 2.9 g of magnesium in 200 ml of diethyl ether. After stirring the mixture for 1 hour and adding 100 ml of 10% strength sulphuric acid, it is extracted with diethyl ether and the residue is distilled. About 18.5 g of 4-(3-trifluoromethylphenyl)-butan-1-ol are obtained and are dissolved in 70 ml of toluene, 16 g of p-toluenesulphonyl chloride and 25 ml of pyridine are added and the mixture is stirred. After 2 days, the precipitate is filtered off and worked up by extraction. After concentrating the organic phase, 25.7 g of the tosylate of the substituted butanol remain and are taken up in 250 ml of ethanol and the mixture is added dropwise to a solution prepared from 11.5 g of diethyl malonate and 1.6 g of sodium in 220 ml of absolute ethanol. The mixture is heated under reflux for 24 hours and then concentrated and the residue is partitioned between water and methylene chloride. After several extractions, the organic phases collected are dried and concentrated. The residue is purified by chromatography over a 500 g silica gel column and gives 24.9 g of 4-(3-trifluoromethylphenyl)-butylmalonic acid diethyl ester, which is used in (d).

reactant | oxirane | 5.5 g | O1CC1 | C2H4O
reactant | 2-(3-trifluoromethylphenyl)-ethyl bromide | 28.5 g | FC(C=1C=C(C=CC1)CCBr)(F)F | C9H8BrF3
reactant | magnesium | 2.9 g | [Mg] | Mg
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 4-(3-trifluoromethylphenyl)-butan-1-ol | 18.5 g | FC(C=1C=C(C=CC1)CCCCO)(F)F | C11H13F3O
